US04607041
Diethyl 4-(4-benzofurazanyl)-2-formyl-1,4-dihydro-6-(trifluoromethyl)-3,5-pyridinedicarboxylate
To a solution of diethyl 4-(4-benzofurazanyl)-2-(diethoxymethyl)-1,4-dihydro-6-(trifluoromethyl)-3,5-pyridinedicarboxylate (7.6 g, 14.5 mmoles) in tetrahydrofuran (100 ml) was added 25% aqueous hydrochloric acid solution (100 ml) and the resulting solution heated at reflux. After 1.5 hours the cooled solution was poured into ethyl acetate (200 ml). The organic phase was separated and washed with water, saturated aqueous sodium bicarbonate solution, brine and dried (MgSO4). Evaporation of the solvent left an oil (7.5 g) which was purified by chromatography on silica (300 g) using ether-petroleum ether (60°-80°) as eluent. The major component was obtained as an oil which gave a solid on trituration with 2-propanol. Recrystallisation from 2-propanol gave the title compound (0.45 g) as yellow crystals mp 94°-5°.

reactant | diethyl 4-(4-benzofurazanyl)-2-(diethoxymethyl)-1,4-dihydro-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 14.5 mmoles, 7.6 g | N1=C2C(=NO1)C(=CC=C2)C2C(=C(NC(=C2C(=O)OCC)C(F)(F)F)C(OCC)OCC)C(=O)OCC | C23H26F3N3O7
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-propanol | CC(C)O | C3H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Diethyl 4-(4-benzofurazanyl)-2-formyl-1,4-dihydro-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 0.45 g | N1=C2C(=NO1)C(=CC=C2)C2C(=C(NC(=C2C(=O)OCC)C(F)(F)F)C=O)C(=O)OCC | C19H16F3N3O6
